US05932710
Preparation of 2'-Acetyl Erythromycin B
Into a 1.0 L one neck round bottom flask were placed 50 g of erythromycin B (69.64 m mole), 500 mL ethyl acetate and 16 mL acetic anhydride (17.3 g, 169.6 m mole). The solution was stirred at room temperature overnight. Copious amounts of white solids were observed. This mixture was filtered to give 26.2 g solid. The filtrate was washed with 300 mL 5% sodium bicarbonate twice, and the organic layer was dried with magnesium sulfate. The solvent was removed by vacuum distillation to give a second crop of desired product (22.3 g). The product was identified by mass spectroscopy and NMR.

reactant | erythromycin B | 50 g | CC[C@@H]1[C@@H]([C@@H]([C@H](C(=O)[C@@H](C[C@@]([C@@H]([C@H]([C@@H]([C@H](C(=O)O1)C)O[C@H]2C[C@@]([C@H]([C@@H](O2)C)O)(C)OC)C)O[C@H]3[C@@H]([C@H](C[C@H](O3)C)N(C)C)O)(C)O)C)C)O)C | C37H67NO12
reactant | acetic anhydride | 16 mL, 17.3 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | ethyl acetate | 500 mL | C(C)(=O)OCC | C4H8O2
product | 2'-Acetyl Erythromycin | 26.2 g | CC[C@@H]1[C@@]([C@@H]([C@H](C(=O)[C@@H](C[C@@]([C@@H]([C@H]([C@@H]([C@H](C(=O)O1)C)O[C@H]2C[C@@]([C@H]([C@@H](O2)C)O)(C)OC)C)O[C@H]3[C@@H]([C@H](C[C@H](O3)C)N(C)C)OC(=O)C)(C)O)C)C)O)(C)O | C39H69NO14
